US05270311
A stirred suspension of 7-amino-2-(2-furyl)-5-methylsulphonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazine (1.4 g) in 1,2-dimethoxyethane (25 ml) was treated with an aqueous solution of 1M sodium hydroxide (25 ml). After 3 hours at room temperature the reaction mixture was acidified with 1M hydrochloric acid (pH 2-3) and stirred for 2 hours. The precipitated yellow solid was collected by filtration and washed with water. Crystallisation from boiling distilled water gave 7-amino-2-(2-furyl)-5-hydroxy-1,2,4-triazolo[1,5-a][1,3,5]triazine (0.47 g) as a pale yellow solid m.p. >300° C.; microanalysis, found: C,44.3; H,2.5; N,38.7%, C8H6N6O2 requires: C,44.0; H,2.8; N,38.5%; NMR: 6.69(dd,1H, furyl-4H), 7.10(d,1H, furyl-3H), 7.90(d,1H, furyl-5H), 8.36(br s, 2H, NH2) and 12.1(br s, 1H,OH); m/e 219 (M+H)+.

reactant | 7-amino-2-(2-furyl)-5-methylsulphonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazine | 1.4 g | NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)S(=O)(=O)C | C9H8N6O3S
reactant | sodium hydroxide | 1M, 25 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M, pH 2-3 | Cl | ClH
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
product | 7-amino-2-(2-furyl)-5-hydroxy-1,2,4-triazolo[1,5-a][1,3,5]triazine | 0.47 g | NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)O | C8H6N6O2
